* Ideal Transformer Subcircuit Parameters
* RATIO1 = turns ratio (= secondary1/primary)
* RATIO2 = turns ratio (= secondary2/primary)
*
* Ideal Transformer with three windings
* jjt 18/12/00: created using IDEAL4W (created by dw, 18/12/2000) as a template.
* Connections:
*               Pri+
*               | Pri-
*               | | Sec1+
*               | | | Sec1-
*               | | | | Sec2+
*               | | | | | Sec2-
*               | | | | | |
*               | | | | | |
*               | | | | | |
.SUBCKT IDEAL3W 1 2 3 4 5 6 PARAMS: RATIO1=1 RATIO2=1
BP  1 2 I=( -I(BS1)*{RATIO1} - I(BS2)*{RATIO2} )
BS1 3 4 V=( V(1,2)*{RATIO1} )
BS2 5 6 V=( V(1,2)*{RATIO2} )
.ENDS IDEAL3W